* c:\fossee\esim\library\subcircuitlibrary\2bit_dac\2bit_dac.cir

* u1  /vdd /vrefh /vrefl /d0 /d1 /vout net-_s1-pad7_ /d1_buf port
r1  /vrefh net-_r1-pad2_ resistor
s1  /vdd /d0 /vrefl net-_r1-pad2_ net-_s1-pad5_ net-_s1-pad6_ net-_s1-pad7_ switch_2n
s2  /vdd /d1 net-_s1-pad6_ net-_s1-pad5_ /vout /d1_buf switch
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
